US06509354B1
To 0.7 g (18.4 mmol) of lithium aluminum hydride in 30 ml of diethyl ether, 7.2 g (17.8 mmol) of 5-(2,6-dichloro-4-trifluoromethylphenyl)-2-methylbenzenesulfonyl chloride in 30 ml of diethyl ether was added dropwise at −10° C. After 12 hours of stirring at room temperature, the reaction mixture was poured into 1N aqueous hydrochloric acid for separation. The organic layer was washed with 50 ml of water twice and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Purification of the residue by silica gel column chromatography affored 4.3 g of 1,1′-thiodi-[5-(2,6-dichloro-4-trifluoromethylphenyl)-2-methylbenzene] (yield 75.0%) as a pale yellow dough (nD20 1.6066), which was used in Example 2 (1) as the starting material.

reactant | lithium aluminum hydride | 18.4 mmol, 0.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-(2,6-dichloro-4-trifluoromethylphenyl)-2-methylbenzenesulfonyl chloride | 17.8 mmol, 7.2 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)C=1C=CC(=C(C1)S(=O)(=O)Cl)C | C14H8Cl3F3O2S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 1,1′-thiodi-[5-(2,6-dichloro-4-trifluoromethylphenyl)-2-methylbenzene] | 4.3 g, yield 75.0% | S(C1=C(C=CC(=C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C)C1=C(C=CC(=C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C | C28H16Cl4F6S
